data/pmechdb/original/mc_train_fold0/raw/train.txt
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC2=C(C=C1)C=C(C=C2)C[OH:10].CCC(C(=O)C1=CC=CC=C1)C(=O)[O-].C(CC=C(F)F)CC(=O)[O-]>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH+:10]CC4=CC5=C(C=CC=C5)C=C4.CCC(C(=O)C1=CC=CC=C1)C(=O)[O-].C(CC=C(F)F)CC(=O)[O-] 10=20,
C=C[C:20](=[OH+:21])Cl.[OH2:10]>>C=C[C:20]([OH2+:10])([OH:21])Cl 10=20;20,21=21
[H:20][O:21]C(=O)C.CC1=NC(C(=O)O1)C(C2=CC=CC=C2)[O-:10]>>[H:20][O:10]C(C1C(=O)OC(=N1)C)C2=CC=CC=C2.CC(=O)[O-:21] 10=20;20,21=21
CCOC(=O)[C:10](C)([C:11](C)(O)[O-:12])[N:20]=[N:21]C1=C2C(=CC=NC2=C(C=C1)OC)C3=C(C=CC=C3)F.O.[Cl-]>>CCOC(=O)[C:10](=[N:20][N-:21]C1=C2C(=CC=NC2=C(C=C1)OC)C3=C(C=CC=C3)F)C.C[C:11](=[O:12])O.O.[Cl-] 10,11=10,20;20,21=21;12=11
C[C:11](=[C+:20]CC1CCCCC(=C1)O[Ti-](Cl)(Cl)(Cl)Cl)[Si:10](C)(C)C>>C[C+:11]=[C:20](CC1CCCCC(=C1)O[Ti-](Cl)(Cl)(Cl)Cl)[Si:10](C)(C)C 10,11=10,20
C1C[C:20](=[O+:21]CCO)CCC1C(C2=CC=CC=C2)(C3=CC=CC=C3)O.[OH2:10]>>C1C[C:20](CCC1C(C2=CC=CC=C2)(C3=CC=CC=C3)O)([OH2+:10])[O:21]CCO 10=20;20,21=21
CCC[C+:20](C)C.CC(C)(C)[OH:10]>>CCC[C:20](C)(C)[OH+:10]C(C)(C)C 10=20,
[B-:10]([O+:11](CC)CC)(F)(F)F.CC#N.C1C(C(N(C1=O)CC2=CC=CC=C2)O)O>>[B:10](F)(F)F.CC[O:11]CC.CC#N.C1C(C(N(C1=O)CC2=CC=CC=C2)O)O 10,11=11
[Li+:20].C1CCC(=CC1)C(C2=CC=CC=C2)(C3=CC=CC=C3)[O-:10].CC(C)(C)I>>[Li:20][O:10]C(C1=CCCCC1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(C)(C)I 10=20,
C[CH:20]=[CH:21][C:22](=[O:23])C.O[O-:10]>>C[CH:20]([CH:21]=[C:22](C)[O-:23])[O:10]O 10=20;22,23=23;20,21=21,22
[H:10][C:11]1(CCC(CC1CC)CCCCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CC)CCCCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
C[OH+:21][CH:20](C1CCC2(CC1)OCCO2)[OH:10].CC(=O)[O-].O>>C[OH:21].C1CC2(CCC1[CH:20]=[OH+:10])OCCO2.CC(=O)[O-].O 10=20;20,21=21
C[C+:20]=O.C1=CC2=C(C=C1)N[CH:10]=[CH:11]2>>C[C:20](=O)[CH:10]1[CH+:11]C2=C(N1)C=CC=C2 10,11=10,20
[H:20][O:21]P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C)(CCCCC)C(=O)C4CCCC5=C(C4=O)C=CC=C5.[OH-:10]>>[H:20][OH:10].CCCCCC(C)(C(=O)C1CCCC2=C(C1=O)C=CC=C2)OP(C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.CC1=CCC([NH+]1C2CCCCC2N)(C3=CC=CC=C3)[O-:10].CO.O>>[H:20][O:10]C1(CC=C([NH+]1C2CCCCC2N)C)C3=CC=CC=C3.CC(=O)[O-:21].CO.O 10=20;20,21=21
CC(=O)NC1C=CC(CC1NC(=O)OC(C)(C)C)[OH:10].CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC(=O)[O-]>>CC(=O)NC1C=CC(CC1NC(=O)OC(C)(C)C)[OH+:10][I:20]2(C3=C(C=CC=C3)C(=O)O2)(OC(=O)C)OC(=O)C.CC(=O)[O-] 10=20,
C[S+](=O)(C)[CH2:21][CH2:20][O-:10]>>C[S+](=O)(C)[CH2-:21].[CH2:20]=[O:10] 10=20;20,21=21
[H:20][O:21]N=C1C2CCC1CC=CC2.[OH-:10].CC1=CC=C(C=C1)S(=O)(=O)Cl.[Na+]>>[H:20][OH:10].C1CC2CC=CCC1C2=N[O-:21].CC1=CC=C(C=C1)S(=O)(=O)Cl.[Na+] 10=20;20,21=21
[H:20][C:21]1(C=C(O[CH+:22]1)S(=O)(=O)O)Br.[Br-:10]>>[H:20][Br:10].C1=C(O[CH:22]=[C:21]1Br)S(=O)(=O)O 10=20;20,21=21,22
CC([C:10](=[CH:11][O-:12])[CH2:20][N+:21](C)(C)C)OC(C)O>>CC([C:10](=[CH2:20])[CH:11]=[O:12])OC(C)O.C[N:21](C)C 10,11=10,20;20,21=21;12=11
CC1=CC=C(C=C1)[CH:20]=[O:21].C1CC[NH:10]CC1.CC(=O)O.CC(C)(C)CC(=O)CC#N>>CC1=CC=C(C=C1)[CH:20]([NH+:10]2CCCCC2)[O-:21].CC(=O)O.CC(C)(C)CC(=O)CC#N 10=20;20,21=21
CCN[C:20](C)([NH+:21](CC)CC)[OH:10]>>CC[NH:21]CC.CCN[C:20](=[OH+:10])C 10=20;20,21=21
[H:20][Br:21].CC1(CCC[CH:10]=[C:11]1C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1CCCC([C+:11]1C2=CC=CC=C2)(C)C3=CC=CC=C3.[Br-:21] 10,11=10,20;20,21=21
[B:20](CCCC)(CCCC)[O+]=C(C(C)C(C1=CC=CC=C1)[O-:10])N2C(COC2=O)CC3=CC=CC=C3>>[B-:20]1([O:10]C(C(C(=[O+]1)N2C(COC2=O)CC3=CC=CC=C3)C)C4=CC=CC=C4)(CCCC)CCCC 10=20,
CC=C[C:10](=[C:11]1N2C3C(CC4=C3C=CC=C4)OCC2=N[N:12]1C5=C(C(=C(C(=C5F)F)F)F)F)O.C1=CC=C(C=C1)[CH:20]=[C:21](C(=O)C2=CC=CC=C2)[C:22](=[O:23])C3=CC=CC=C3.[B-](F)(F)(F)F.C1CCC2=[NH+]CCCN2CC1>>CC=C[C:10]([C:11]1=[N+:12](N=C2N1C3C(CC4=C3C=CC=C4)OC2)C5=C(C(=C(C(=C5F)F)F)F)F)([CH:20](C6=CC=CC=C6)[C:21](=[C:22](C7=CC=CC=C7)[O-:23])C(=O)C8=CC=CC=C8)O.[B-](F)(F)(F)F.C1CCC2=[NH+]CCCN2CC1 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][N+:21]1=CC=CC=C1.CC(C=O)C(CCC(=O)OC)C1(OCC[O:10]1)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O>>[H:20][O+:10]1CCOC1(C)C(CCC(=O)OC)C(C)C=O.C1=CC=[N:21]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O 10=20;20,21=21
[H:20][O+:21]=C(C)C.C[Si](C)(C)C=[C:11]=[CH2:10]>>[H:20][CH2:10][C+:11]=C[Si](C)(C)C.CC(=[O:21])C 10,11=10,20;20,21=21
C1CC(=O)C[C:20](=[O:21])C1.C1COCC[NH:10]1.C1=CC=CC=C1>>C1CC(=O)C[C:20](C1)([NH+:10]2CCOCC2)[O-:21].C1=CC=CC=C1 10=20;20,21=21
[H:20][O:21]C(=O)CCCC(=C(F)F)F.CCOC(=O)NN(C(=[O:10])OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=CC(=CC=C4)OC5=CC=CC=C5>>[H:20][O+:10]=C(N(NC(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=CC(=CC=C4)OC5=CC=CC=C5)OCC.C(CC(=C(F)F)F)CC(=O)[O-:21] 10=20;20,21=21
CO[C:20]([OH2+:21])([OH:10])OC>>CO[C:20](=[OH+:10])OC.[OH2:21] 10=20;20,21=21
CC1=C(NC(=C1CCC(=O)OC)C)[CH:20]=[O+:21]C.[OH2:10].CO.C(=O)(C(F)(F)F)[O-]>>CC1=C(NC(=C1CCC(=O)OC)C)[CH:20]([OH2+:10])[O:21]C.CO.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
